US09216988B2
To a solution of 1-(4-(4-((cyclobutylamino)methyl)phenyl)piperazin-1-yl)ethanone (185 mg, 0.64 mmol) in dichloromethane (1.5 mL) was added triethylamine (0.18 mL, 1.29 mmol), followed by phenylmethanesulfonyl chloride (185 mg, 0.96 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction was then filtered through diatomaceous earth, concentrated and purified by preparative reverse phase HPLC to yield 62 mg of N-[4-(4-Acetyl-piperazin-1-yl)-benzyl]-N-cyclobutyl-C-phenyl-methanesulfonamide. 1H NMR (400 MHz, DMSO) δ 7.46-7.29 (m, 5H), 7.18 (d, J=8.6 Hz, 2H), 6.91 (d, J=8.7 Hz, 2H), 4.36 (s, 2H), 4.18 (s, 2H), 4.14-3.98 (m, 1H), 3.63-3.48 (m, 4H), 3.18-3.10 (m, 2H), 3.10-3.00 (m, 2H), 2.03 (s, 3H), 2.01-1.89 (m, 2H), 1.89-1.72 (m, 2H), 1.54-1.15 (m, 2H); LCMS (m/z) ES+ 442.2 [M+1]+.

reactant | 1-(4-(4-((cyclobutylamino)methyl)phenyl)piperazin-1-yl)ethanone | 0.64 mmol, 185 mg | C1(CCC1)NCC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C17H25N3O
reactant | triethylamine | 1.29 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | phenylmethanesulfonyl chloride | 0.96 mmol, 185 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | N-[4-(4-Acetyl-piperazin-1-yl)-benzyl]-N-cyclobutyl-C-phenyl-methanesulfonamide | 62 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(CN(S(=O)(=O)CC2=CC=CC=C2)C2CCC2)C=C1 | C24H31N3O3S
